US06046232
Synthesis of α-(2-n-Butoxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 28 using 2-hydroxybenzonitrile, 1-iodobutane and N-tert-butylhydroxylamine. The title compound was isolated in 77.4% overall yield as a viscous oil.

reactant | 2-hydroxybenzonitrile | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | 1-iodobutane | ICCCC | C4H9I
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(2-n-Butoxyphenyl)-N-tert-butylnitrone | C(CCC)OC1=C(C=CC=C1)C=[N+]([O-])C(C)(C)C | C15H23NO2
